************************************************************************
* auCdl Netlist:
* 
* Library Name:  dual_bitline
* Top Cell Name: nand2
* View Name:     schematic
* Netlisted on:  Feb 27 11:14:11 2010
************************************************************************

*.EQUATION
*.SCALE METER
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: dual_bitline
* Cell Name:    nand2
* View Name:    schematic
************************************************************************

.SUBCKT nand2 CW cl_pre op
*.PININFO CW:I cl_pre:I op:O
MM1 net3 cl_pre gnd! gnd! NMOS_VTL W=180n L=50n
MM0 op CW net3 gnd! NMOS_VTL W=180n L=50n
MM3 op cl_pre vdd! vdd! PMOS_VTL W=180n L=50n
MM2 op CW vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS

