.PARAM

*.GLOBAL vdd!


*.PIN vdd!




.SUBCKT precharge clk btl
.param w1=360n
MM1 btl clk vdd! vdd! PMOS_VTL W='w1' L=50n
.ENDS

.SUBCKT precharge72 clk btl
MM1 btl clk vdd! vdd! PMOS_VTL W=720n L=50n
.ENDS


