************************************************************************
* auCdl Netlist:
* 
* Library Name:  dual_bitline
* Top Cell Name: 12r6w_new
* View Name:     schematic
* Netlisted on:  Oct  2 19:43:55 2009
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: dual_bitline
* Cell Name:    12r6w_new
* View Name:    schematic
************************************************************************

.SUBCKT 12r6w_new R1_WL R2_WL R3_WL R4_WL R5_WL R6_WL R7_WL R8_WL R9_WL R10_WL 
+ R11_WL R12_WL W1_WL W2_WL W3_WL W4_WL W5_WL  
+ W6_WL R1_BTL R1_BTLB R2_BTL R2_BTLB R3_BTL R3_BTLB R4_BTL R4_BTLB 
+ R5_BTL R5_BTLB R6_BTL R6_BTLB R7_BTL R7_BTLB R8_BTL R8_BTLB R9_BTL R9_BTLB 
+ R10_BTL R10_BTLB R11_BTL R11_BTLB R12_BTL R12_BTLB
+ W1_BTL W1_BTLB W2_BTL W2_BTLB W3_BTL W3_BTLB W4_BTL W4_BTLB W5_BTL W5_BTLB 
+ W6_BTL W6_BTLB 
*.PININFO r1_wl:I r2_wl:I r3_wl:I r4_wl:I r5_wl:I r6_wl:I r7_wl:I r8_wl:I 
*.PININFO r9_wl:I r10_wl:I r11_wl:I r12_wl:I w1_btl:I w1_btlb:I w1_wl:I 
*.PININFO w2_btl:I w2_btlb:I w2_wl:I w3_btl:I w3_btlb:I w3_wl:I w4_btl:I 
*.PININFO w4_btlb:I w4_wl:I w5_btl:I w5_btlb:I w5_wl:I w6_btl:I w6_btlb:I 
*.PININFO w6_wl:I r1_btl:B r1_btlb:B r2_btl:B r2_btlb:B r3_btl:B r3_btlb:B 
*.PININFO r4_btl:B r4_btlb:B r5_btl:B r5_btlb:B r6_btl:B r6_btlb:B r7_btl:B 
*.PININFO r7_btlb:B r8_btl:B r8_btlb:B r9_btl:B r9_btlb:B r10_btl:B r10_btlb:B 
*.PININFO r11_btl:B r11_btlb:B r12_btl:B r12_btlb:B
MM95 gnd! qbar qbar_new2 gnd! NMOS_VTL W=360n L=50n
MM97 gnd! q q_new2 gnd! NMOS_VTL W=360n L=50n
MM91 r10_btlb r10_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM90 r12_btlb r12_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM87 r9_btlb r9_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM86 r11_btlb r11_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM82 r6_btl r6_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM83 r5_btl r5_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM84 r7_btl r7_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM85 r8_btl r8_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM78 r1_btl r1_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM79 r2_btl r2_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM80 r4_btl r4_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM81 r3_btl r3_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM68 r8_btlb r8_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM65 r7_btlb r7_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM49 r3_btlb r3_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM41 qbar w1_wl w1_btlb gnd! NMOS_VTL W=90n L=50n
MM38 w3_btl w3_wl q gnd! NMOS_VTL W=90n L=50n
MM51 r4_btlb r4_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM52 w4_btl w4_wl q gnd! NMOS_VTL W=90n L=50n
MM53 qbar w4_wl w4_btlb gnd! NMOS_VTL W=90n L=50n
MM54 w5_btl w5_wl q gnd! NMOS_VTL W=90n L=50n
MM55 qbar w5_wl w5_btlb gnd! NMOS_VTL W=90n L=50n
MM45 r9_btl r9_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM46 r11_btl r11_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM43 qbar w3_wl w3_btlb gnd! NMOS_VTL W=90n L=50n
MM42 qbar w2_wl w2_btlb gnd! NMOS_VTL W=90n L=50n
MM40 w1_btl w1_wl q gnd! NMOS_VTL W=90n L=50n
MM39 w2_btl w2_wl q gnd! NMOS_VTL W=90n L=50n
MM48 r2_btlb r2_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM47 r1_btlb r1_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM56 r10_btl r10_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM57 r5_btlb r5_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM58 qbar w6_wl w6_btlb gnd! NMOS_VTL W=90n L=50n
MM59 w6_btl w6_wl q gnd! NMOS_VTL W=90n L=50n
MM60 r6_btlb r6_wl qbar_new2 gnd! NMOS_VTL W=90n L=50n
MM61 r12_btl r12_wl q_new2 gnd! NMOS_VTL W=90n L=50n
MM1 q qbar gnd! gnd! NMOS_VTL W=90n L=50n
MM0 gnd! q qbar gnd! NMOS_VTL W=90n L=50n
MM3 vdd! q qbar vdd! PMOS_VTL W=180n L=50n
MM2 q qbar vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS

