************************************************************************
* auCdl Netlist:
* 
* Library Name:  dual_bitline
* Top Cell Name: 1r1w_new
* View Name:     schematic
* Netlisted on:  Aug 16 01:20:16 2009
************************************************************************

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: dual_bitline
* Cell Name:    1r1w_new
* View Name:    schematic
************************************************************************

.SUBCKT 1r1w_new R1_WL W1_WL R1_BTL R1_BTLB W1_BTL W1_BTLB
*.PININFO r1_wl:I w1_btl:I w1_btlb:I w1_wl:I r1_btl:B r1_btlb:B
MM78 r1_btl r1_wl net0248 gnd! NMOS_VTL W=90n L=50n
MM41 net0220 w1_wl w1_btlb gnd! NMOS_VTL W=90n L=50n
MM40 w1_btl w1_wl net0248 gnd! NMOS_VTL W=90n L=50n
MM47 r1_btlb r1_wl net0220 gnd! NMOS_VTL W=90n L=50n
MM1 net0248 net0220 gnd! gnd! NMOS_VTL W=90n L=50n
MM0 gnd! net0248 net0220 gnd! NMOS_VTL W=90n L=50n
MM3 vdd! net0248 net0220 vdd! PMOS_VTL W=180n L=50n
MM2 net0248 net0220 vdd! vdd! PMOS_VTL W=180n L=50n
.ENDS

